US07625932B2
3-(4-Benzofuran-7-yl-phenyl)-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Add together 7-bromo-benzofuran (300 mg, 1.50 mmol), potassium acetate (431 mg, 2 Eq.), and bis(pinacolato)diboron (390 mg, 1.6 Eq.) in DMF (30 mL) and stir for 10 minutes while degassing with nitrogen. Add [11′bis(diphenylphosphino) ferrocene]dichloro-palladium(II) (30 mg) to the reaction mixture and stir at 80° C. for 2 hours under a nitrogen atmosphere. Cool mixture to room temperature and add 4-cyano-5-ethyl-1-methyl-3-(4-trifluoromethanesulfonyloxyphenyl)-1H-pyrrole-2-carboxylic acid ethyl ester (prepared in example E-97a or E-97b) (1.3 g, 2 Eq.), 2.0M sodium carbonate/water (3.6 mL ), and [11′bis(diphenylphosphino)ferrocene]dichloro-palladium(II) (30 mg) to the mixture and heat at 80° C. overnight. Cool to room temperature and pour into water and extract the desired product into ethyl acetate. Separate layers, and wash the organic layer once with water, dry over potassium carbonate, filter, and concentrate under reduced vacuum to give 1.08 g as a dark solid. Purify the material by silica gel chromatography (Chromatotron™) eluting with hexane/ethyl acetate 7:3 to provide 275 mg of the title compound as a white solid. Mass spectrum (m/e): 399.2 (M*+1).

reactant | 7-bromo-benzofuran | 1.50 mmol, 300 mg | BrC1=CC=CC=2C=COC21 | C8H5BrO
reactant | potassium acetate | 431 mg, 2 Eq. | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 390 mg, 1.6 Eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 4-cyano-5-ethyl-1-methyl-3-(4-trifluoromethanesulfonyloxyphenyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 1.3 g, 2 Eq. | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C#N)CC)C | C18H17F3N2O5S
reactant | sodium carbonate water | 2.0M, 3.6 mL | C([O-])([O-])=O.[Na+].[Na+].O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(4-Benzofuran-7-yl-phenyl)-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 275 mg | C(C)OC(=O)C=1N(C=C(C1C1=C(C=CC=C1)C=1C=CC=2C1OC=CC2)C#N)C | C23H18N2O3
